Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Pelvic organ prolapse
 
Major Surgical or Invasive Procedure:
TVH, vault suspension, anterior repair, perineorrhaphy, and 
cystoscopy
 
History of Present Illness:
Mrs. ___ is a ___ yo Gravida 5 Para ___ who presents today
in the office for a consultation requested by Dr. ___ vaginal prolapse. She is complaining of worsening
vaginal bulging over the past 6 months. Her symptoms have been
present for approximately ___ years. She believes that they are
more noticeable with BM's.

She reports no incontinence events. She voids ___ times
per day and 3 times per night. She uses no pads per day. She
denies any urgency, she denies any dysuria and reports bladder
emptying with interrupted flow. She denies any hematuria, UTI's,
kidney stones or pyelonephritis.

Mrs. ___ also admits to vaginal pressure and palpable prolapse.

She also denies any constipation. She is not sexually active and 

does not experience dyspareunia. She denies any vaginal dryness.

She is otherwise without any other significant complaints.
 
Past Medical History:
PAST MEDICAL HISTORY:
  1. Hypothyroidism
  2. Osteoporosis
  3. ? Tuberculosis
  4. Allergic rhinitis

PAST SURGICAL HISTORY
  1. Thyroidectomy

PAST OB HISTORY
G5P3023
Vaginal: 3

PAST GYN HISTORY
She is Postmenopausal and denies any post-menopausal bleeding.
 
Social History:
___
Family History:
She is married and is a retired ___
She denies any current tobacco/illicit drug use
She denies any ETOH 
 
Physical Exam:
INITIAL PHYSICAL EXAMINATION
Neuro/Psych: Oriented x3, Affect Normal, NAD.
Neck: Supple, No masses, Trachea midline, Thyroid normal size.
Nodes: No inguinal adenopathy.
Skin: No atypical lesions.
Heart: No pedal edema
Lungs: Normal respiratory effort.
Abdomen: Non tender, Non distended, No masses, guarding or
rebound, No hepatosplenomegaly, No hernia.
Ext: No clubbing, cyanosis, edema.
Urethra meatus central, no prolapse.
Vagina: No lesions, Bladder non-tender, no masses appreciated.
[See POP-Q]
Cervix: no lesions, no discharge
Uterus: non-tender 
Adnexa: no masses non tender.
POP-Q Exam:
Aa: +2.5
Ba: +2.5
TVL: 8
D: -4.5
C: -0.5
___: 4
PB: 2
Ap: -2
Bp: -2
___ Exam:
Cystocele: 2
Uterus/Cervix: 2 
Vault: 2
Ant enterocele:
Post enterocele:
Rectocele:
VAGINAL EXAM
- There was moderate vaginal atrophy
.
Discharge:
Gen: NAD
Resp: CTAB
CV: RRR
Abd: soft, nontender, nondistended
Pelv: incision clean, dry and intact
Ext: no TTP

 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing TVH, vault suspension, anterior repair, 
perineorrhaphy, and cystoscopy. Please see the operative report 
for full details.
.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol.
.
On post-operative day 1, her urine output was adequate and her 
Foley was removed with a voiding trial, the results of which are 
as follows:
Instilled 300 mL, voided 250 mL with 265 mL residual, then 
voided 50 mL with 224 mL residual, then 325 mL with 406 mL 
residual.
Her Foley catheter was replaced and she was instructed in its 
care. Her diet was advanced without difficulty and she was 
transitioned to oral oxycodone, ibuprofen, and tylenol.
.
By post-operative day 1, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled.
 
Medications on Admission:
alendronate, Ca, Vit D

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
do not take more than 4000gm per day 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1
2. Ibuprofen 400 mg PO Q8H:PRN pain 
take with food 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*50 Tablet Refills:*1
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
do not drive or drink alcohol while taking this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
please take while taking narcotic pain medication such as 
oxycodone 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*2
5. Nitrofurantoin Monohyd (MacroBID) 100 mg PO DAILY 
Please take while your Foley urinary catheter is in place. 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
DAILY Disp #*10 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pelvic organ prolapse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.
* If you have staples, they will be removed at your follow-up 
visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

*) You were discharged home with a Foley (bladder) catheter and 
received teaching for it prior to discharge. You were also given 
a prescription for Macrodantin (nitrofurantoin) antibiotic to 
prevent a UTI while you have the catheter. Please take as 
prescribed. You should follow-up in Dr. ___ on 
___ for catheter removal. Please call for an appointment.

 
Followup Instructions:
___